US06114334
A mixture of 1-(2-methoxyphenyl)piperazine (1.65 g) and 37-40% aqueous formaldehyde solution (0.39 ml) was stirred at ambient temperature under nitrogen for 10 minutes, then a suspension of 4-methyl-2-(3-pyridyl)-2-imidazolin-5-one (1.5 g) in industrial methylated spirit (75 ml) was added in one portion. The mixture was stirred and heated under reflux for 52 hours, then the solvent was removed in vacuo. The residue was triturated with a 49:49:2 mixture of ether, ethyl acetate and propan-2-ol, and the resulting solid was collected by filtration, washed with ethyl acetate, and dried in vacuo at ambient temperature to give 4-[4-(2-methoxyphenyl)piperazin-1-ylmethyl]-4-methyl-2-(3-pyridyl)-2-imidazolin-5-one as an off-white solid (1.55 g), m.p. 159-162° C.

reactant | 1-(2-methoxyphenyl)piperazine | 1.65 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | formaldehyde | 0.39 ml | C=O | CH2O
reactant | 4-methyl-2-(3-pyridyl)-2-imidazolin-5-one | 1.5 g | CC1N=C(NC1=O)C=1C=NC=CC1 | C9H9N3O
product | 4-[4-(2-methoxyphenyl)piperazin-1-ylmethyl]-4-methyl-2-(3-pyridyl)-2-imidazolin-5-one | 1.55 g | COC1=C(C=CC=C1)N1CCN(CC1)CC1(N=C(NC1=O)C=1C=NC=CC1)C | C21H25N5O2
